US08044069B2
5-(bromomethyl)-4-methyl-2-(3-(trifluoromethyl)phenyl)thiazole
To a solution of {4-methyl-2-[3-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methanol (90.2 g, 0.732 mmol) in dichloromethane (10 mL) was added carbon tetrabromide (0.485 g, 1.464 mmol) and triphenylphosphine (0.384 g, 1.464 mmol). The reaction mixture was then stirred at room temperature for 16 hours. The reaction mixture was concentrated, and the residue was chromatographed on silica gel eluting with 10-20% ethyl acetate/hexane to yield the title compound. 1H NMR (300 MHz, CDCl3) δ ppm 8.18 (s, 1H), 8.06 (d, J=7.54 Hz, 1H), 7.67 (d, 1H), 7.56 (t, J=7.73 Hz, 1H), 4.72 (m, 2H), 2.48 (m, 3H).

reactant | {4-methyl-2-[3-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methanol | 0.732 mmol, 90.2 g | CC=1N=C(SC1CO)C1=CC(=CC=C1)C(F)(F)F | C12H10F3NOS
reactant | carbon tetrabromide | 1.464 mmol, 0.485 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 1.464 mmol, 0.384 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 5-(bromomethyl)-4-methyl-2-(3-(trifluoromethyl)phenyl)thiazole | BrCC1=C(N=C(S1)C1=CC(=CC=C1)C(F)(F)F)C | C12H9BrF3NS
